US06869949B2
C. 8-Amino-2,3-dimethyl-7-[3-(3-thienyl)-1-oxo-2-propenyl]imidazo[1,2-a]pyridine
A mixture of 5 g of 7-acetyl-8-amino-2,3-dimethylimidazo[1,2-a]pyridine, 2.9 g of thiophene-3-carboxaldehyde, 1.6 g of sodium hydroxide and 100 ml of ethanol is stirred at room temperature for 3 days. It is then concentrated in vacuo to half the volume, poured onto 100 ml of saturated aqueous ammonium chloride solution and extracted three times with 100 ml of methylene chloride each time. The combined organic phases are washed with a little water, the solvent is stripped off in vacuo and the residue is stirred in ethyl ether. After filtering off and drying in vacuo, 4.6 g of the title compound are obtained.

reactant | 7-acetyl-8-amino-2,3-dimethylimidazo[1,2-a]pyridine | 5 g | C(C)(=O)C1=C(C=2N(C=C1)C(=C(N2)C)C)N | C11H13N3O
reactant | thiophene-3-carboxaldehyde | 2.9 g | S1C=C(C=C1)C=O | C5H4OS
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-Amino-2,3-dimethyl-7-[3-(3-thienyl)-1-oxo-2-propenyl]imidazo[1,2-a]pyridine | NC=1C=2N(C=CC1C(C=CC1=CSC=C1)=O)C(=C(N2)C)C | C16H15N3OS
